### PR TITLE
[Merged by Bors] - feat(Algebra/CategoryTheory/ModuleCat): Locally Free Sheaves

### PR DESCRIPTION
**Pull request by Brian-Nugent**
This PR gives a definition of locally free sheaves in terms of first defining a predicate IsLocallyFree for [SheafOfModules.LocalGeneratorsData](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.html#SheafOfModules.LocalGeneratorsData).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+  X := q.X
+  coversTop := q.coversTop
+  presentation (i) := {
+    generators := q.generators i
+    relations := {
+      I := ULift Empty
+      s (j) := Empty.rec _ j.down
+      epi := IsZero.epi (IsZero.of_iso (isZero_zero _) (Limits.kernel.ofMono _)) _
+    }
+  }
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]: You can make this a bit more compact:

```suggestion
  presentation i := {
    generators := q.generators i
    relations.I := ULift Empty
    relations.s j := Empty.rec _ j.down
    relations.epi := IsZero.epi (IsZero.of_iso (isZero_zero _) (Limits.kernel.ofMono _)) _ }
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+class IsLocallyFreeData {M : SheafOfModules.{u} R} (q : M.LocalGeneratorsData) : Prop where
+  iso : ∀ i, IsIso (q.generators i).π
+
+attribute [instance] IsLocallyFreeData.iso
+
+end LocalGeneratorsData
+
+/-- A sheaf of modules is locally free if there exists locally free data for it. -/
+class IsLocallyFree (M : SheafOfModules.{u} R) : Prop where
+  nonempty_locallyFreeData : ∃ q : M.LocalGeneratorsData, q.IsLocallyFreeData
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
  exists_locallyFreeData : ∃ q : M.LocalGeneratorsData, q.IsLocallyFreeData
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+  }
+
+@[simp]
+lemma quasiCoherentData_localGeneratorsData {M : SheafOfModules.{u} R}
+    (q : M.LocalGeneratorsData) [q.IsLocallyFreeData] :
+    q.quasiCoherentData.localGeneratorsData = q := rfl
+
+end LocalGeneratorsData
+
+instance (M : SheafOfModules.{u} R) [h : M.IsLocallyFree] : M.IsQuasicoherent :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]: I think this might be one of those cases where we might want to have this since this is an "always apply" type of instance.
```suggestion
instance (priority := 100) (M : SheafOfModules.{u} R) [h : M.IsLocallyFree] : M.IsQuasicoherent :=
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+public import Mathlib.Algebra.Category.ModuleCat.Sheaf.Quasicoherent
+
+/-!
+# Locally Free Sheaves
+
+A sheaf of modules is locally free if it is locally isomorphic to a free module.
+
+-/
+
+@[expose] public section
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]: It is also possible to remove the `@[expose]` by default and explicitly tag the only def in the file (`quasiCoherentData`) via `@[expose]`

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+Authors: Brian Nugent
+-/
+module
+
+public import Mathlib.Algebra.Category.ModuleCat.Sheaf.Quasicoherent
+
+/-!
+# Locally Free Sheaves
+
+A sheaf of modules is locally free if it is locally isomorphic to a free module.
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean:13]: Can you add to this docstring that this is expressed first as a predicate on local generator data, and then as the assertion that there exists such local generator data?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 6]
```diff
@@ -0,0 +1,91 @@
...
+  iso : ∀ i, IsIso (q.generators i).π
+
+attribute [instance] IsLocallyFreeData.iso
+
+end LocalGeneratorsData
+
+/-- A sheaf of modules is locally free if there exists locally free data for it. -/
+class IsLocallyFree (M : SheafOfModules.{u} R) : Prop where
+  nonempty_locallyFreeData : ∃ q : M.LocalGeneratorsData, q.IsLocallyFreeData
+
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean:67]: How hard would it be to add here such LocallyFree instances on free sheaves?

Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean:67]: I've added it but it involved adding a `erw` that I'd really like to avoid.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 7]
```diff
@@ -0,0 +1,151 @@
...
+    rw [Sieve.ext_iff]
+    intro _ f
+    simpa [Sieve.top_apply, iff_true] using ⟨x, Nonempty.intro f⟩
+  generators x := G.map (pushforward (𝟙 (R.over x))) (Iso.refl _)
+
+instance (I : Type u) :
+    (free.generatingSections (R := R) I).localGeneratorsData.IsLocallyFreeData where
+  iso i := by
+    dsimp
+    erw [GeneratingSections.map_π_eq _ (pushforward (𝟙 (R.over i)))]
```
Comment (Brian-Nugent) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]: Why won't `rw` work here?

Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]: I added set_option backward.isDefEq.respectTransparency false in and now it works

**Comment by dagurtomas** [comment]
This is showing up on the queue but there are some errors in CI @Brian-Nugent

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 8]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
   exists_localGeneratorsData (M) :
     ∃ (σ : (LocalGeneratorsData.{u'} M)), σ.IsFiniteType
 
+/-- A choice of local generators when `M` is a sheaf of modules of finite type. -/
+@[deprecated "Use the lemma `IsFiniteType.exists_localGeneratorsData` instead."
+  (since := "2025-10-28")]
+noncomputable def localGeneratorsDataOfIsFiniteType (M : SheafOfModules.{u} R)
+    [M.IsFiniteType] :
+    M.LocalGeneratorsData :=
+  (IsFiniteType.exists_localGeneratorsData M).choose
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]: This looks like a merge accident.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 9]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+/-- Let `F` be a functor from sheaf of `R`-module to sheaf of `S`-module, if `F` preserves
+colimits and `F.obj (unit R) ≅ unit S`, given generating sections `G : M.GeneratingSections`,
+then we obtain generating sections of `F.obj M`. -/
+@[simps]
+def GeneratingSections.map : (F.obj M).GeneratingSections where
+  I := G.I
+  s := (freeHomEquiv (F.obj M)) (G.mapFreeHom F η)
+  epi := by
+    simp only [mapFreeHom, Equiv.symm_apply_apply, epi_comp_iff_of_epi]
+    have : Epi G.π := inferInstance
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]:
```suggestion
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 10]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+trivial cover of `C`. -/
+@[simps]
+def GeneratingSections.localGeneratorsData {M : SheafOfModules.{u} R} (G : M.GeneratingSections) :
+    M.LocalGeneratorsData where
+  I := C
+  X := id
+  coversTop x := GrothendieckTopology.covering_of_eq_top J <| by
+    rw [Sieve.ext_iff]
+    intro _ f
+    simpa [Sieve.top_apply, iff_true] using ⟨x, Nonempty.intro f⟩
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]: Could you please make `Sieve.ofObjects id X = ⊤` a `simp` lemma? The proof should be just `Sieve.pullback_ofObjects_eq_top _ (𝟙 _)`.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 11]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+
+-- `preservesColimitsOfSize_shrink` is not a global instance because it loops indefinitely.
+-- But here it is fine as an instance since the universe `u` is inferrable from the type of `F`.
+local instance : PreservesColimitsOfSize.{0, 0} F := preservesColimitsOfSize_shrink _
+
+/-- Let `F` be a functor from sheaf of `R`-module to sheaf of `S`-module, if `F` preserves
+colimits and `F.obj (unit R) ≅ unit S`, given generating sections `G : M.GeneratingSections`,
+then we obtain a morphism `free G.I ⟶ F.obj M`. -/
+def GeneratingSections.mapFreeHom : free G.I ⟶ F.obj M :=
+  (mapFreeIso F G.I η).hom ≫ F.map G.π
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean:168]: ~~I am not sure we need this definition, I would suggest to inline it.~~ Edit: I see that we already have `Presentation.mapGenerators` and you are just generalising that. So let's keep it for now, although I would also question the existence of `Presentation.mapGenerators`.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 12]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+  I := G.I
+  s := (freeHomEquiv (F.obj M)) (G.mapFreeHom F η)
+  epi := by
+    simp only [mapFreeHom, Equiv.symm_apply_apply, epi_comp_iff_of_epi]
+    have : Epi G.π := inferInstance
+    infer_instance
+
+lemma GeneratingSections.map_π_eq (G : M.GeneratingSections)
+    (F : SheafOfModules.{u} R ⥤ SheafOfModules.{u} S) [PreservesColimitsOfSize.{u, u} F]
+    (η : unit S ≅ F.obj (unit R)) : (G.map F η).π = (mapFreeIso F G.I η).hom ≫ F.map G.π :=
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]:
```suggestion
lemma GeneratingSections.map_π_eq : (G.map F η).π = (mapFreeIso F G.I η).hom ≫ F.map G.π :=
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 13]
```diff
@@ -143,4 +145,70 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+colimits and `F.obj (unit R) ≅ unit S`, given generating sections `G : M.GeneratingSections`,
+then we obtain a morphism `free G.I ⟶ F.obj M`. -/
+def GeneratingSections.mapFreeHom : free G.I ⟶ F.obj M :=
+  (mapFreeIso F G.I η).hom ≫ F.map G.π
+
+/-- Let `F` be a functor from sheaf of `R`-module to sheaf of `S`-module, if `F` preserves
+colimits and `F.obj (unit R) ≅ unit S`, given generating sections `G : M.GeneratingSections`,
+then we obtain generating sections of `F.obj M`. -/
+@[simps]
+def GeneratingSections.map : (F.obj M).GeneratingSections where
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean:174]: Could you please also provide a `IsFiniteType` instance for `GeneratingSections.map` given `[G.IsFiniteType]`?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 14]
```diff
@@ -0,0 +1,140 @@
...
+/-!
+# Locally Free Sheaves
+
+A sheaf of modules is locally free if it is locally isomorphic to a free module.
+
+## Main Definitions
+
+- `SheafOfModules.LocalGeneratorsData.IsLocallyFreeData`: This is defined as a predicate on
+`SheafOfModules.LocalGeneratorData` where `q : M.LocalGeneratorData` is said to be locally
+free data if `(q.generators i).π` is an isomorphism for all `i` in `q.I`.
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
  `SheafOfModules.LocalGeneratorData` where `q : M.LocalGeneratorData` is said to be locally
  free data if `(q.generators i).π` is an isomorphism for all `i` in `q.I`.
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 15]
```diff
@@ -0,0 +1,140 @@
...
+
+- `SheafOfModules.IsLocallyFree`: `M : SheafOfModules R` is locally free is there exists locally
+free data for it.
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
  free data for it.
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 16]
```diff
@@ -0,0 +1,140 @@
...
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat.{u} AddCommGrpCat.{u})]
+  [∀ X, HasWeakSheafify (J.over X) AddCommGrpCat.{u}]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat.{u}]
+
+namespace LocalGeneratorsData
+
+/-- Local generator data `q` is locally free data if all of the natural morphisms
+`free (q.generators i).I ⟶ M.over (q.X i)` are isomorphisms -/
+class IsLocallyFreeData {M : SheafOfModules.{u} R} (q : M.LocalGeneratorsData) : Prop where
+  iso : ∀ i, IsIso (q.generators i).π := by infer_instance
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
  isIso : ∀ i, IsIso (q.generators i).π := by infer_instance
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 17]
```diff
@@ -0,0 +1,140 @@
...
+
+instance IsLocallyFreeData.shrink {M : SheafOfModules.{u} R} (q : M.LocalGeneratorsData)
+    [q.IsLocallyFreeData] : q.shrink.IsLocallyFreeData where
+  iso i := inferInstanceAs (IsIso (q.generators i.2.choose).π)
+
+end LocalGeneratorsData
+
+/-- A sheaf of modules is locally free if there exists locally free data for it. -/
+class IsLocallyFree (M : SheafOfModules.{u} R) : Prop where
+  exists_locallyFreeData : ∃ q : LocalGeneratorsData.{u₁} M, q.IsLocallyFreeData
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
  exists_isLocallyFreeData : ∃ q : LocalGeneratorsData.{u₁} M, q.IsLocallyFreeData
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 18]
```diff
@@ -0,0 +1,140 @@
...
+@[expose, simps]
+def free.generatingSections (I : Type u) : (free (R := R) I).GeneratingSections where
+  I := I
+  s (i) := freeSection i
+  epi := by
+    simp only [Equiv.symm_apply_apply]
+    infer_instance
+
+@[simp]
+lemma free.generatingSections_π_id (I : Type u) :
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
lemma free.generatingSections_π (I : Type u) :
```

**Review by chrisflav — COMMENTED** [review]
I am wondering if we would also like to have a `SheafOfModules.IsFree` predicate in the future. In that case, we could consider having a `GeneratorsData.IsFree` predicate and use that to define `LocalGeneratorsData.IsLocallyFreeData`. We could for example have `abbrev GeneratorsData.IsFree G := IsIso G.\pi` and use that.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean:168]: Yeah, at some point it would be good to refactor `Presentation.map` to just use `GeneratingSections.map` instead.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean (hunk 10 above)
Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]: Where should it live?

Comment (chrisflav) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]: It can go in `Mathlib.CategoryTheory.Sites.Sieves`.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 19]
```diff
@@ -0,0 +1,140 @@
...
+
+section
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat.{u} AddCommGrpCat.{u})]
+  [∀ X, HasSheafify (J.over X) AddCommGrpCat.{u}]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat.{u}]
+
+namespace LocalGeneratorsData
+
+/-- Given locally free data, this is the quasiCoherentData where there are no relations. -/
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
/-- Given locally free data, this is the `QuasiCoherentData` where there are no relations. -/
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 20]
```diff
@@ -0,0 +1,140 @@
...
+
+attribute [instance] IsLocallyFreeData.isIso
+
+instance IsLocallyFreeData.shrink {M : SheafOfModules.{u} R} (q : M.LocalGeneratorsData)
+    [q.IsLocallyFreeData] : q.shrink.IsLocallyFreeData where
+  isIso i := inferInstanceAs (IsIso (q.generators i.2.choose).π)
+
+end LocalGeneratorsData
+
+/-- A sheaf of modules is locally free if there exists locally free data for it. -/
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
/-- A sheaf of modules is locally free if it is locally isomorphic to free sheaves: There exist local generators satisfying `IsLocallyFreeData`. -/
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean [hunk 21]
```diff
@@ -143,4 +145,64 @@ class IsFiniteType (M : SheafOfModules.{u} R) : Prop where
...
+  I := G.I
+  s := (freeHomEquiv (F.obj M)) (G.mapFreeHom F η)
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Generators.lean]:
```suggestion
  s := freeHomEquiv (F.obj M) (G.mapFreeHom F η)
```

**Comment by Brian-Nugent** [comment]
> I am wondering if we would also like to have a `SheafOfModules.IsFree` predicate in the future. In that case, we could consider having a `GeneratorsData.IsFree` predicate and use that to define `LocalGeneratorsData.IsLocallyFreeData`. We could for example have `abbrev GeneratorsData.IsFree G := IsIso G.\pi` and use that.

I think it might be better to just inline `IsIso G.π` (it is less characters after all). A predicate `SheafOfModules.IsFree` could be useful, but that could just be defined in terms of `IsIso G.π`.

File: Mathlib/CategoryTheory/Sites/Sieves.lean [hunk 22]
```diff
@@ -867,6 +867,10 @@ lemma pullback_ofObjects {I : Type*} (X : I → C) {Y Z : C} (f : Z ⟶ Y) :
   ext
   simp [Sieve.ofObjects]
 
+@[simp]
+lemma ofObject_id (X : C) : Sieve.ofObjects id X = ⊤ :=
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/Sieves.lean]:
```suggestion
lemma ofObjects_id (X : C) : Sieve.ofObjects id X = ⊤ :=
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 23]
```diff
@@ -0,0 +1,144 @@
...
+
+instance IsLocallyFreeData.shrink {M : SheafOfModules.{u} R} (q : M.LocalGeneratorsData)
+    [q.IsLocallyFreeData] : q.shrink.IsLocallyFreeData where
+  isIso i := inferInstanceAs (IsIso (q.generators i.2.choose).π)
+
+end LocalGeneratorsData
+
+/-- A sheaf of modules is locally free if it is locally isomorphic to free sheaves:
+There exist local generators satisfying `IsLocallyFreeData`. -/
+class IsLocallyFree (M : SheafOfModules.{u} R) : Prop where
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean:62]:
```suggestion
@[stacks 01C6 "(1)"]
class IsLocallyFree (M : SheafOfModules.{u} R) : Prop where
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean [hunk 24]
```diff
@@ -0,0 +1,144 @@
...
+section
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat.{u} AddCommGrpCat.{u})]
+  [∀ X, HasWeakSheafify (J.over X) AddCommGrpCat.{u}]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat.{u}]
+
+namespace LocalGeneratorsData
+
+/-- Local generator data `q` is locally free data if all of the natural morphisms
+`free (q.generators i).I ⟶ M.over (q.X i)` are isomorphisms -/
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/LocallyFree.lean]:
```suggestion
`free (q.generators i).I ⟶ M.over (q.X i)` are isomorphisms. -/
```

**Review by chrisflav — APPROVED** [review]
LGTM, modulo these comments.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge
